US09403798B2
tert-Butyl 4-(5-methylthiophen-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate
tert-Butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridine-1(2H)-carboxylate (1.66 g, 5.00 mmol) and a crude product of 4,4,5,5,-tetramethyl-2-(5-methylthiophen-3-yl)-1,3,2-dioxaborolane (3.40 g) were used to obtain a crude product of the title compound (970 mg) by synthesis in a similar manner to Reference Synthesis Example 139.

reactant | tert-Butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridine-1(2H)-carboxylate | 5.00 mmol, 1.66 g | FC(S(=O)(=O)OC1=CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 4,4,5,5,-tetramethyl-2-(5-methylthiophen-3-yl)-1,3,2-dioxaborolane | 3.40 g | CC1(OB(OC1(C)C)C1=CSC(=C1)C)C | C11H17BO2S
product | tert-Butyl 4-(5-methylthiophen-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 970 mg | CC1=CC(=CS1)C1=CCN(CC1)C(=O)OC(C)(C)C | C15H21NO2S
